US04292256
Methyl N-[[[[[(1,1-dimethylethyl)(5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinan-2-yl)amino]thio]methylamino]carbonyl]oxy]ethanimidothiate
To a slurry of N-(5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinan-2-yl)-1,1-dimethylethanamine (15.7 g., 70.8 mmoles) in tetrahydrofuran (50 ml.) at -5° is added over a ten minute period a solution of n-butyl lithium in hexane (46 ml. of 1.6 M; 74 mmoles) with rapid stirring under dry nitrogen. This is stirred for 60 minutes at -5° and then transferred under dry nitrogen to an addition funnel and added over a 30 minute period to a solution of freshly distilled sulfur dichloride in tetrahydrofuran (25 ml.) at -5° with stirring. Stirring is continued for two hours at -5° and then filtered under dry nitrogen. The filter cake is washed with tetrahydrofuran (50 ml.) and the filtrates combined and concentrated in vacuo at ≤35°. The residue is redissolved in tetrahydrofuran (75 ml.), cooled to -5°, solid cuprous chloride (0.3 g.) added at once followed immediately by the addition of a solution of methomyl (11.5 g.; 70.8 mmoles) and triethylamine (9.8 ml., 70.8 mmoles) with stirring under dry nitrogen. About four minutes are required. Stirring is continued for two hours at -5°. The reaction mixture is then concentrated in vacuo at ≤45° and the residue taken up in methylene chloride (500 ml.) and washed with ice-water (2×300 ml.). The organic phase is vacuum filtered through celite and dried (anhydrous sodium sulfate). It is then concentrated in vacuo at ≤45° giving 28 g. of viscous oil. Preliminary absorption chromatography on silica gel using 2:1 ethyl acetate:Skellysolve B gives 15 g. of yellow oil. Chromatography of this material on silica gel using 1:4 isopropanol:Skellysolve B gives 4.4 g. (15% yld) as a white crystalline solid; MP 133.5°-134.5° (recrystallized from ethylacetate).

reactant | N-(5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinan-2-yl)-1,1-dimethylethanamine | 70.8 mmoles, 15.7 g | CC1(COP(OC1)(=O)NC(C)(C)C)C | C9H20NO3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | sulfur dichloride | S(Cl)Cl | Cl2S
reactant | methomyl | 70.8 mmoles, 11.5 g | C/C(=N\OC(=O)NC)/SC | C5H10N2O2S
reactant | triethylamine | 70.8 mmoles, 9.8 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | Skellysolve B | CCCCCC | C6H14
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | hexane | 74 mmoles, 1.6 M, 46 ml | CCCCCC | C6H14
product | Methyl N-[[[[[(1,1-dimethylethyl)(5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinan-2-yl)amino]thio]methylamino]carbonyl]oxy]ethanimidothiate | CC(C)(C)N(SCNC(=O)ON=C(C)SC)P1(OCC(CO1)(C)C)=O | C14H28N3O5PS2
